US08247403B2
(6) 7-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 7-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (160 mg, 0.471 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (112 mg, 91.1%) as a solid.

reactant | tert-butyl 7-phenyl-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.471 mmol, 160 mg | C1(=CC=CC=C1)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C20H23NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 7-phenyl-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 112 mg, 91.1% | Cl.C1(=CC=CC=C1)C=1C=CC2=C(CNCCO2)C1 | InChI=1S/C15H15NO.ClH/c1-2-4-12(5-3-1)13-6-7-15-14(10-13)11-16-8-9-17-15;/h1-7,10,16H,8-9,11H2;1H
